US06248738B1
A mixture of 4,7-dibromoisoquinoline (556 mg, 1.93 mmol), tetrakis(triphenylphosphine)-palladium(0) (73 mg, 3 mol %), phenylboronic acid (238 mg, 1.95 mmol), and aqueous sodium carbonate (Na2CO3) (3.9 mL, 1.0 M, 3.9 mmol) in DME (12 mL) was heated at reflux under nitrogen for 20 h. The mixture was diluted with ethyl acetate (EtOAc) (100 mL), washed with water (30 mL), dried over MgSO4 and evaporated in vacuo. The residue was purified by column chromatography upon silica gel using hexanes-EtOAc (95:5 to 80:20) as eluant to give 4-bromo-7-phenylisoquinoline (389 mg, 1.37 mmol) as a straw-colour solid; 1H (δ, CDCl3, 300 MHz) 7.4-7.6 (3H, m), 7.65-7.75 (2H, m), 8.1 (1H, d), 8.15 (1H, s), 8.2 (1H, d), 8.7 (1H, s), 9.2 (1H, s); LRMS 283, 284, 286.

reactant | 4,7-dibromoisoquinoline | 1.93 mmol, 556 mg | BrC1=CN=CC2=CC(=CC=C12)Br | C9H5Br2N
reactant | phenylboronic acid | 1.95 mmol, 238 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 3.9 mmol, 1.0 M, 3.9 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 12 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 73 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-bromo-7-phenylisoquinoline | 1.37 mmol, 389 mg | BrC1=CN=CC2=CC(=CC=C12)C1=CC=CC=C1 | C15H10BrN
